US04621084
A solution of 3,7-dimethyl-2-(3-amino-4-hydroxyphenyl)imidazo[1,2-a]pyridine (1.27 g) and triethylamine (1.0 g) in tetrahydrofuran (100 ml) was added to 2-bromopropionyl bromide (1.3 g) at ambient temperature. The resultant mixture was stirred at ambient temperature for 2 hours and at 60° to 70° C. for 2 hours. The reaction mixture was evaporated under reduced pressure and the residue was dissolved in a mixture of ethyl acetate and water. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was subjected to column chromatography on silica gel eluting with a mixture of chloroform and methanol (9:1). The fractions containing the desired compound were combined and evaporated in vacuo to afford a crystalline residue, which was recrystallized from ethyl acetate to give 6-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (0.5 g). mp. 254°-256° C.

reactant | 3,7-dimethyl-2-(3-amino-4-hydroxyphenyl)imidazo[1,2-a]pyridine | 1.27 g | CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)O)N | C15H15N3O
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromopropionyl bromide | 1.3 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 0.5 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(NC(C(O1)C)=O)C2 | C18H17N3O2
